US07494992B2
Preparation 173: 5-(2,2-dichloro-1-methylethenyl)-1,8a-dihydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-2-yl acetate
To a stirred solution of (3aS,4R,6aR,7R,10R,10aR)-7-(2,2-dichloro-1-methylethenyl)-2,2,5,10-tetramethyl-4,6a,7,8, 9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate (Preparation 170, 0.95 g) in ethylene glycol (40 ml) and methanol (10 ml) was added para-toluenesulphonic acid (95 mg). The reaction mixture was heated to 75° C., after 1.5 h the reaction mixture was concentrated in vacuo to remove the methanol. The resultant solution was diluted with diethyl ether (30 ml) and water (30 ml) and the organic layer separated and washed with sodium hydrogen carbonate (3×30 ml). The aqueous layers were back extracted with diethyl ether (2×20 ml) and the combined organic extracts were dried (MgSO4) and concentrated to give the title compound as a white solid.

reactant | (3aS,4R,6aR,7R,10R,10aR)-7-(2,2-dichloro-1-methylethenyl)-2,2,5,10-tetramethyl-4,6a,7,8, 9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 0.95 g | C(C)(=O)O[C@@H]1C(=C[C@@H]2[C@@H](CC[C@H]([C@]23[C@H]1OC(O3)(C)C)C)C(=C(Cl)Cl)C)C | C20H28Cl2O4
reactant | para-toluenesulphonic acid | 95 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethylene glycol | 40 ml | C(CO)O | C2H6O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-(2,2-dichloro-1-methylethenyl)-1,8a-dihydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-2-yl acetate | C(C)(=O)OC1C(C2(C(CCC(C2C=C1C)C(=C(Cl)Cl)C)C)O)O | C17H24Cl2O4
